Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypertension and hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of HIV, hepatitis C cirrhosis, HTN, CAD s/p 3 
vessel ___ ___, CKI, COPD, cervical stenosis s/p 
surgical correction ___, presented to the ED because of 
dizziness and home blood pressure measurement of 189/71. He was 
instructed by his cardiologist to measure his BP at home since a 
visit ___ when Lisinopril was started and his metoprolol dose 
was lowered from 100mg to 50mg. His elevated BP from his normal 
of 160s prompted him to come in for evaluation. He also felt 
lightheaded but knew he was not hungry so decided he should come 
to the hospital.
In the ED, his sodium level was found to be 125 with negative 
Troponin and baseline anemia.
Recent nuclear stress ___ with no anginal type symptoms or 
ischemic ECG changes and no myocardial perfusion defect or wall 
motion abnormality.
He also reported a 10 lb weight loss over the past 6 months and 
a cough of ___ days.
 
Past Medical History:
HTN
 HIV
Hepatitis C cirrhosis c/b portal HTN
Chronic Renal Failure
Cervical Stenosis s/p surgical procedure in ___
COPD
Colonic Polyps
Anemia of Chronic Disease 
Bilateral Cataracts
Scrotal Varicocele/Hydrocele
Erectile Dysfunction
Peripheral Neuropathy
G6PD defeciency
?h/o TB ___ - while working at ___, treated for 9 mos 
RPR + in ___ treated 
 
 
Social History:
___
Family History:
Brother - TB
Mother - heart problems 
No premature CAD

 
Physical Exam:
On admission:

GEN: Pleasant man in NAD
VS: T97.2 BP164/68 P60 R20 100% on RA
HEENT: EOMI, MMM, no JVD
CV: RR, no MRG, slightly muffled heart sounds
PULM: CTAB
ABD: BS+, NTND, no HSM
LIMBS: no ___ edema
NEURO: A+O x 3

On discharge:

GEN: Pleasant man in NAD
VS: T99.3 BP110/56 P64 R18 100% on RA
HEENT: EOMI, MMM, no JVD, no LAD
CV: RR, no MRG
PULM: CTAB
ABD: BS+, NT, slight distension, no HSM,
LIMBS: no ___ edema
NEURO: A+O x 3

 
Pertinent Results:
___ Radiology CHEST (PA & LAT)  
IMPRESSION: No acute intrathoracic process. 

___ Radiology US ABD LIMIT, SINGLE ORGAN
IMPRESSION: No evidence of ascites. 

___ 01:47PM URINE  HOURS-RANDOM CREAT-28 SODIUM-58 
POTASSIUM-20 CHLORIDE-52
___ 01:47PM URINE  OSMOLAL-205
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:30PM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1

___ 12:40PM BLOOD Glucose-135* UreaN-11 Creat-1.2 Na-125* 
K-4.8 Cl-95* HCO3-21* AnGap-14
___ 07:30AM BLOOD Glucose-90 UreaN-14 Creat-1.2 Na-132* 
K-4.8 Cl-102 HCO3-22 AnGap-13
___ 06:00AM BLOOD Glucose-85 UreaN-19 Creat-1.3* Na-133 
K-4.9 Cl-102 HCO3-22 AnGap-14
 
Brief Hospital Course:
Mr ___ is a ___ year old male who came in for lightheadedness 
and hypertension and was found to have hyponatremia. In the 
hospital, his lisinopril was discontinued and his hypertension 
medications were adjusted with the advice of the renal team. He 
had transient diarrhea but felt better. He was discharged home 
with services and will begin cardiac rehab and see his primary 
care doctor.

# Hyponatremia
Presented with a sodium level of 125, a new issue. At discharge, 
Na was 133. Most likely etiology of hyponatremia, given acute 
onset, is drug-induced from lisinopril, which was recently 
started. Hypovolemia likely given his admitted decrease in PO 
intake and decrease in appettite. He appeared euvolemic on exam 
after IV fluids in the ED. He denied other medications as well.

Fluid I/O and electrolytes were monitored and returned to 
normal. An abdominal ultrasound ruled out ascites. Simvastatin 
was replaced by pravastatin 40 mg p.o. QD and metoprolol and 
amlodipine were replaced by carvedilol 6.25 mg p.o. BID. If it 
is well tolerated, to be increased by outpatient providers.

# Lightheadedness
Dizziness unlikely of cardiac origin given the normal recent 
stress test and lack of chest pain. No evidence for stroke - 
moving all extremities, equal strength. No evidence for low 
blood pressure or hypovolemia. Has had dizziness in past. 
Symptoms have resolved at time of discharge. Likely hypovolemia 
in the setting of decreased PO intake and decreased appettite. 

# HTN
Chronic issue for which he recently saw his cardiologist. His 
medications were adjusted as above. Normotensive through 
hospitalization. Will follow up with cardiologist and primary 
care (___) and initiating cardiac rehab ___.

OTHER ISSUES
# CAD
History of NSTEMI ___ with cath; Angina in past. Stable on 
amdission, maintained on Plavix and aspirin and other HTN 
medications as above. Had cardiac rehab scheduled for ___.

# Anemia
Chronic anemia, with Hct at baseline. Possibley due to HIV or 
CKD.

# Chronic Kidney Disease
Current Cr of 1.3 in line with baseline creatinine of 1.0-1.3. 
Thought to be secondary to HIV.

# COPD - chronic issue per OMR with short distance dyspnea on 
exertion. Has cardiac rehab scheduled for ___.

TRANSITIONAL ISSUES:
Patient has decreased appetite and 10 lb weight loss in past 
year or two. Patient says Ensure not covered by Medicare and 
would like help with appetite.
 
Medications on Admission:
- metoprolol succinate 50mg ER daily
- simvastatin 40mg daily
- Plavix 75 mg daily
- lisinopril 5mg daily
- ASA 325mg daily
- abacavir (ziagen) 450mg BID
- efavirenz (sustive) 600mg daily
- lamivudine (epivir) 150mg daily
- multivitamin 1 daily

 
Discharge Medications:
1. Plavix 75 mg Tablet Sig: One (1) Tablet PO once a day.  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. efavirenz 600 mg Tablet Sig: One (1) Tablet PO at bedtime.  
5. abacavir 300 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

7. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
8. pravastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
9. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
10. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital with concern for your blood pressure 
and you were found to have low sodium levels in your blood. You 
also experienced dizziness at home, and in the hospital, you had 
some diarrhea.

While you were here, your symptoms resolved, your sodium was 
improving and within normal limits and your blood pressure was 
well-controlled. We were in touch with your PCP. You are 
scheduled to start cardiac rehab on ___. We recommend that 
you proceed with this plan.

We made the following changes to your medications:

START Carvedilol 6.25 mg by mouth every day.
START Pravastatin 40mg by mouth daily
STOP Amlodipine
STOP Simvastatin
STOP Metoprolol

Please take your other medications as prescribed.

It has been a pleasure being involved in your care.

Please follow-up at the appointments below.
 
Followup Instructions:
___